US04343811
2-Methyl-2-[2-methyl-1-propyl-3-(4-pyridyl)-1H-indole-5-yloxy]-propanoic acid diethylamide
The above compound was prepared from 2-methyl-2-[2-methyl-1-propyl-3-(4-pyridyl)-1H-indole-5-yloxy]propanoic acid hydrochloride and diethylamine using a procedure analogous to that of Example 128.

reactant | 2-methyl-2-[2-methyl-1-propyl-3-(4-pyridyl)-1H-indole-5-yloxy]propanoic acid hydrochloride | Cl.CC(C(=O)O)(C)OC=1C=C2C(=C(N(C2=CC1)CCC)C)C1=CC=NC=C1
reactant | diethylamine | C(C)NCC | C4H11N
product | 2-Methyl-2-[2-methyl-1-propyl-3-(4-pyridyl)-1H-indole-5-yloxy]-propanoic acid diethylamide | C(C)N(C(C(C)(OC=1C=C2C(=C(N(C2=CC1)CCC)C)C1=CC=NC=C1)C)=O)CC | C25H33N3O2
